US05482965
Preparation of 5-Amino-5-hydroxymethyl-2-(3-heptyl)-1,3-dioxane
Procedure of Example 2 was repeated with 6.41 g of 2-ethylhexanal and 7.56 g of 2-(hydroxymethyl)-2-nitro-1,3-propanediol to give 11 g of 5-nitro-5-hydroxymethyl-1,3-dioxane derivative, which was reduced and distilled at 175°-178° C. to give 8.7 g of the product.

reactant | 2-ethylhexanal | 6.41 g | C(C)C(C=O)CCCC | C8H16O
reactant | 2-(hydroxymethyl)-2-nitro-1,3-propanediol | 7.56 g | OCC(CO)(CO)[N+](=O)[O-] | C4H9NO5
product | 5-Amino-5-hydroxymethyl-2-(3-heptyl)-1,3-dioxane | 11 g | NC1(COC(OC1)C(CC)CCCC)CO | C12H25NO3
